US07649110B2
3-(4-Hydroxy-phenyl)-hex-4-ynoic acid methyl ester (1.32 g, 6 mmol) was treated with HNO3 (0.30 mL, 7.2 mmol) in AcOH (10 mL) at 80° C. for 3 h. The solvent was concentrated in vacuo and 3-(3-nitro-4-hydroxy-phenyl)-hex-4-ynoic acid methyl ester (613 mg, 2.3 mmol) was isolated from flash chromatography. MS ESI m/e: 264.0 (M+H). The nitro group was then reduced with SnCl2 (2.62 g, 11.6 mmol) in EtOH (10 mL0 and EtOAc (10 mL) at 70° C. for 3 h. The reaction mixture was cooled to 25° C., washed with saturated aqueous Na2CO3, water, brine, dried over MgSO4, filtered and concentrated in vacuo. The crude product was then purified by reverse phase HPLC to give 3-(3-amino-4-hydroxy-phenyl)-hex-4-ynoic acid methyl ester (174 mg, 0.74 mmol). MS ESI m/e: 234.0 (M+H). 3-(3-amino-4-hydroxy-phenyl)-hex-4-ynoic acid methyl ester (174 mg, 0.74 mmol) and 3-bromobenzaldehyde (278 mg, 1.5 mmol) in DMF (3 mL) was treated with DDQ (204 mg, 0.9 mmol) for 2 h at 25° C. The producted was purified by reverse phase HPLC. MS ESI m/e: 398.0 (M+H). 3-[2-(3-Bromo-phenyl)-benzooxazol-5-yl]-hex-4-ynoic acid methyl ester (19.6 mg, 0.05 mmol) and trifluorophenylboronic acid (38 mg, 0.2 mmol) in DME (1 mL) and 0.2 mL of 2M solution of aqueous Na2CO3 was treated with Pd(PPh3)4 at 80° C. for 14 h. The product was isolated from flash chromatography. MS ESI m/e: 464.0 (M+H). The methyl ester (7.8 mg, 0.017 mmol) was hydrolyzed with LiOH (4 mg, 0.1 mmol) in a 1 mL of 1:1:1 mixture of MeOH, THF, and water for 2 h at 25° C. The reaction mixture was acidified with 1N HCl, extracted with CH2Cl2 and concentrated to give the pure acid (7.6 mg). MS ESI m/e: 450.1 (M+H). 1H NMR (500 MHz) (CDCl3) δ 8.52 (1H, s); 8.30 (1H, d, J=7.8 Hz); 7.91 (1H, s); 7.83 (2H, d, J=8.2 Hz); 7.82 (1H, s); 7.78 (2H, dd, J=8.0, 8.0 Hz); 7.67 (1H, dd, J=7.8, 7.8 Hz); 7.58 (2H, d, J=8.4 Hz); 7.46 (1H, dd, J=8.4, 1.5 Hz); 4.29 (1H, m); 2.94 (1H, dd, J=15.8, 8.1 Hz); 2.84 (1H, dd, J=15.8, 6.9 Hz); 1.89 (3H, d, J=2.3 Hz).

reactant | 3-(4-Hydroxy-phenyl)-hex-4-ynoic acid methyl ester | 6 mmol, 1.32 g | COC(CC(C#CC)C1=CC=C(C=C1)O)=O | C13H14O3
reactant | HNO3 | 7.2 mmol, 0.30 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | 3-(3-nitro-4-hydroxy-phenyl)-hex-4-ynoic acid methyl ester | 2.3 mmol, 613 mg | COC(CC(C#CC)C1=CC(=C(C=C1)O)[N+](=O)[O-])=O | C13H13NO5
